US09227962B2
To a solution of LHMDS (3.2 ml, 1.10 M in hexane, 3.52 mmol) in THF (30 ml) was added a solution of 1-phenylpiperidin-4-one (559 mg, 3.19 mmol) in THF (7 ml) at −78° C. over 3 min. After stirring at the same temperature for 30 min, PhNTf2 (1.48 g, 4.15 mmol) was added. After stirring at −78° C. for 20 min, then the reaction mixture was stirred at 0° C. for 20 min. The reaction mixture was quenched by sat. NH4Cl aq. and extracted with CHCl3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (hexane/EtOAc) to give 1-phenyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (563 mg, 58%).

reactant | LHMDS | 3.52 mmol, 1.10 M, 3.2 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-phenylpiperidin-4-one | 3.19 mmol, 559 mg | C1(=CC=CC=C1)N1CCC(CC1)=O | C11H13NO
reactant | PhNTf2 | 4.15 mmol, 1.48 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 1-phenyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 563 mg, 58% | FC(S(=O)(=O)OC=1CCN(CC1)C1=CC=CC=C1)(F)F | C12H12F3NO3S
